US09256099B2
In a 300-ml glass flask equipped with a thermometer, a reflux condenser and a stirrer, 5.0 g of N-benzyl-N′-phenylurea synthesized in Exemplary Synthesis 1, 2.5 g of malonic acid, 20 ml of toluene, and 5.6 g of acetic anhydride were put, the content was heated under stirring so as to adjust the inner temperature to 80° C., and kept under stirring at 80° C. for 3 hours. The content was then cooled to 50° C., washed with 15 ml of water, and the aqueous phase was discarded. The organic layer was kept under stirring at room temperature, and 5 ml of isopropanol was dropped therein. The content was further stirred at 10° C. or below for 0.5 hours, filtered under suction to collect a deposited crystal, the crystal was washed with cold isopropanol, and dried, to thereby obtain 4.6 g of 1-benzyl-3-phenylbarbituric acid as an intermediate.

reactant | N-benzyl-N′-phenylurea | 5.0 g | C(C1=CC=CC=C1)NC(=O)NC1=CC=CC=C1 | C14H14N2O
reactant | malonic acid | 2.5 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | acetic anhydride | 5.6 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-3-phenylbarbituric acid | 4.6 g | C(C1=CC=CC=C1)N1C(=O)N(C(=O)CC1=O)C1=CC=CC=C1 | C17H14N2O3
